US05026702
5-Bromo-3-acetyl-pyridine
44.2 g (0.276 mol) of diethylmalonate, 19.9 g (0.432 mol) of absolute ethanol and 7 g (0.288 mol) of magnesium chips are refluxed for 18 hours with stirring in 254 ml of ether and 1.27 ml of carbon tetrachloride. To this solution, 55.3 g (0.25 mol) of 5-bromonicotinic acid chloride in 170 ml of absolute tetrahydrofuran are slowly added dropwise and refluxed for a further hour. The reaction mixture is cooled in an ice bath and carefully mixed with 508 ml of 2N sulphuric acid. The organic phase is separated off, dried over sodium sulphate and concentrated by evaporation. The residue is taken up in 83 ml of water, 127 ml of glacial acetic acid and 16.6 ml of concentrated sulphuric acid and refluxed for 18 hours. The reaction solution is evaporated down, the residue is diluted with 200 ml of water and adjusted to pH 8 with sodium hydroxide solution. It is then extracted with chloroform, dried over sodium sulphate and evaporated down.

reactant | diethylmalonate | 0.276 mol, 44.2 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | ethanol | 0.432 mol, 19.9 g | C(C)O | C2H6O
reactant | magnesium | 0.288 mol, 7 g | [Mg] | Mg
reactant | 5-bromonicotinic acid chloride | 0.25 mol, 55.3 g | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | sulphuric acid | 2N, 508 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 254 ml | CCOCC | C4H10O
solvent | carbon tetrachloride | 1.27 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 5-Bromo-3-acetyl-pyridine | BrC=1C=C(C=NC1)C(C)=O | C7H6BrNO
